US07585885B2
(S)-2-sec-Butylamino-6-(2-fluorophenyl)-isonicotinic acid methyl ester
Add (S)-2-sec-butylamino-6-chloroisonicotinic acid methyl ester (1.40 g, 5.75 mmol), 2-fluorophenylboronic acid (1.0 g, 7.15 mmol), tetrakis(triphenylphosphine)palladium (0) (0.664 g, 0.575 mmol), potassium carbonate (2.38 g, 17.3 mmol) and 1,4-dioxane (25 mL) to a sealed flask flushed with nitrogen. Heat and stir the mixture overnight and cool to room temperature. Filter the mixture through a filtering agent, concentrate and purify (silica gel chromatography, eluting with 4:96 ethyl acetate:hexanes) to give the title compound (1.31 g, 75%).

reactant | (S)-2-sec-butylamino-6-chloroisonicotinic acid methyl ester | 5.75 mmol, 1.40 g | COC(C1=CC(=NC(=C1)Cl)N[C@@H](C)CC)=O | C11H15ClN2O2
reactant | 2-fluorophenylboronic acid | 7.15 mmol, 1.0 g | FC1=C(C=CC=C1)B(O)O | C6H6BFO2
reactant | potassium carbonate | 17.3 mmol, 2.38 g | C([O-])([O-])=O.[K+].[K+]
catalyst | tris(dibenzylideneacetone)dipalladium | 0.575 mmol, 0.664 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | 1,4-dioxane | 25 mL | O1CCOCC1 | C4H8O2
product | (S)-2-sec-Butylamino-6-(2-fluorophenyl)-isonicotinic acid methyl ester | 1.31 g, 75% | COC(C1=CC(=NC(=C1)C1=C(C=CC=C1)F)N[C@@H](C)CC)=O | C17H19FN2O2
